data/polar.json
{"reaction_name": "Barbituric acid alkylidene formation", "rsmi": "[C:1]1([H:18])([H:19])[C:8](=[O:16])[NH:15][C:4](=[O:6])[NH:14][C:9]1=[O:17].[O:2]=[CH:5][c:3]1[cH:12][cH:10][cH:7][cH:11][cH:13]1>>[C:1]1(=[CH:5][c:3]2[cH:12][cH:10][cH:7][cH:11][cH:13]2)[C:8](=[O:16])[NH:15][C:4](=[O:6])[NH:14][C:9]1=[O:17].[O:2]([H:18])[H:19]", "epd": [["Pi-/Sigma+", [2, 5], [2, 18]], ["Sigma-/LP+", [1, 18], [1]], ["LP-/Sigma+", [1], [1, 5]], ["Sigma-/Pi+", [1, 19], [1, 5]], ["Sigma-/LP+", [2, 5], [2]], ["LP-/Sigma+", [2], [2, 19]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([O-:21])[cH:16][cH:2][c:8]([O:9][CH3:7])[cH:3][cH:17]1.[cH:4]1[c:10]([N+:18](=[O:13])[O-:23])[cH:5][c:11]([N+:19](=[O:14])[O-:22])[cH:6][c:12]1[N+:20](=[O:15])[O-:24]>>[c:1]1([O:21][CH:4]2[C:10](=[N+:18]([O-:13])[O-:23])[CH:5]=[C:11]([N+:19](=[O:14])[O-:22])[CH:6]=[C:12]2[N+:20](=[O:15])[O-:24])[cH:16][cH:2][c:8]([O:9][CH3:7])[cH:3][cH:17]1", "epd": [["LP-/Sigma+", [21], [21, 4]], ["Pi-/Pi+", [4, 10], [10, 18]], ["Pi-/LP+", [18, 13], [13]]]}
{"reaction_name": "Organocuprate 1,4-addition", "rsmi": "[Li+:9].[CH3:1][Cu-:2][CH3:3].[CH2:4]=[CH:5][C:6](=[O:7])[CH3:8]>>[Li+:9].[CH3:3][Cu:2].[CH3:1][CH2:4][CH:5]=[C:6]([O-:7])[CH3:8]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 4]], ["Pi-/Pi+", [4, 5], [5, 6]], ["Pi-/LP+", [6, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:8][c:9]2[cH:16][cH:15][cH:28][cH:11][c:18]2[CH:30]1[Na:20].[O:2]=[S:5](=[O:3])([C:7]([F:25])([F:26])[F:27])[c:22]1[cH:17][c:6]2[n+:10]([O-:4])[o:24][n:13][c:29]2[c:21]([N+:14]([O-:12])=[O:19])[cH:23]1>>[CH:1]1=[CH:8][c:9]2[cH:16][cH:15][cH:28][cH:11][c:18]2[CH:30]1[CH:17]1[c:6]2[n+:10]([O-:4])[o:24][n:13][c:29]2[C:21](=[N+:14]([O-:12])[O-:19])[CH:23]=[C:22]1[S:5](=[O:2])(=[O:3])[C:7]([F:25])([F:26])[F:27].[Na+:20]", "epd": [["Sigma-/Sigma+", [30, 20], [30, 17]], ["Pi-/Pi+", [17, 22], [22, 23]], ["Pi-/Pi+", [23, 21], [21, 14]], ["Pi-/LP+", [14, 19], [19]]]}
{"reaction_name": "Thiol addition to iminium ions", "rsmi": "[CH3:1][S-:3].[CH:2]([CH3:4])=[N+:7]([CH3:5])[CH3:6]>>[CH3:1][S:3][CH:2]([CH3:4])[N:7]([CH3:5])[CH3:6]", "epd": [["LP-/Sigma+", [3], [2, 3]], ["Pi-/LP+", [2, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:3]1([c:7]2[c:30]([CH3:9])[cH:25][c:19]([CH3:15])[cH:28][c:33]2[CH3:12])[CH:24]=[CH:23][N:4]([c:8]2[c:31]([CH3:10])[cH:26][c:20]([CH3:16])[cH:27][c:32]2[CH3:11])[C:36]1=[CH2:21].[c:1]12[c:18]([n:5][o:35][n+:34]1[O-:2])[n:17][c:13]([O:22][CH3:14])[n:6][cH:29]2>>[c:1]12[c:18]([n:5][o:35][n+:34]1[O-:2])[N:17]=[C:13]([O:22][CH3:14])[N-:6][CH:29]2[CH2:21][c:36]1[n+:3](-[c:7]2[c:30]([CH3:9])[cH:25][c:19]([CH3:15])[cH:28][c:33]2[CH3:12])[cH:24][cH:23][n:4]1-[c:8]1[c:31]([CH3:10])[cH:26][c:20]([CH3:16])[cH:27][c:32]1[CH3:11]", "epd": [["LP-/Pi+", [3], [36, 3]], ["Pi-/Sigma+", [21, 36], [21, 29]], ["Pi-/LP+", [29, 6], [6]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:5][C:24]([F:6])([F:7])[F:8])[S:2](=[O:28])(=[O:29])[c:9]2[c:35]([cH:34][cH:15][cH:37][cH:39]2)[C:38]1=[O:26].[cH:3]1[cH:10][c:36]([B-:40]2([c:17]3[s:22][c:16]([CH3:25])[cH:18][cH:27]3)[O:13][c:41]3[cH:31][cH:33][cH:32][cH:30][c:42]3[O:14]2)[cH:11][cH:4][c:12]1[C:23]([F:19])([F:20])[F:21]>>[N:1]1=[C:38]([O-:26])[c:35]2[c:9]([cH:39][cH:37][cH:15][cH:34]2)[S:2]1(=[O:28])=[O:29].[S:5]([c:17]1[s:22][c:16]([CH3:25])[cH:18][cH:27]1)[C:24]([F:6])([F:7])[F:8].[cH:3]1[cH:10][c:36](-[b-:40]2[o+:13][c:41]3[cH:31][cH:33][cH:32][cH:30][c:42]3[o:14]2)[cH:11][cH:4][c:12]1[C:23]([F:19])([F:20])[F:21]", "epd": [["LP-/Pi+", [13], [40, 13]], ["Sigma-/Sigma+", [17, 40], [17, 5]], ["Sigma-/Pi+", [5, 1], [1, 38]], ["Pi-/LP+", [38, 26], [26]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:15][C:32]([F:17])([F:18])[F:19])[S:8](=[O:35])(=[O:36])[c:20]2[c:38]([cH:37][cH:21][cH:39][cH:42]2)[C:41]1=[O:33].[c:2]1([P:22]([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)([c:4]2[cH:13][cH:30][cH:7][cH:31][cH:14]2)=[CH:34][C:25]([O:23][CH2:16][CH3:40])=[O:24])[cH:9][cH:26][cH:5][cH:27][cH:10]1>>[N:1]1=[C:41]([O-:33])[c:38]2[c:20]([cH:42][cH:39][cH:21][cH:37]2)[S:8]1(=[O:35])=[O:36].[c:2]1([P+:22]([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)([c:4]2[cH:13][cH:30][cH:7][cH:31][cH:14]2)[CH:34]([S:15][C:32]([F:17])([F:18])[F:19])[C:25]([O:23][CH2:16][CH3:40])=[O:24])[cH:9][cH:26][cH:5][cH:27][cH:10]1", "epd": [["Pi-/Sigma+", [34, 22], [34, 15]], ["Sigma-/Pi+", [15, 1], [1, 41]], ["Pi-/LP+", [41, 33], [33]]]}
{"reaction_name": "Chapman rearrangement", "rsmi": "[C:1]([CH3:2])(=[NH:3])[O:10][c:4]1[cH:6][cH:8][cH:5][cH:9][cH:7]1>>[C:1]([CH3:2])([NH:3][c:4]1[cH:6][cH:8][cH:5][cH:9][cH:7]1)=[O:10]", "epd": [["Pi-/Sigma+", [1, 3], [3, 4]], ["Sigma-/Pi+", [4, 10], [1, 10]]]}
